US06596738B1
To a stirred mixture of 1-[(2S,3R)-2-benzyloxy-5-hydroxy-3-pentyl]imidazole-4-carboxamide (330 mg, 1.09 mmol) and methanesulfonyl chloride (249 mg, 2.18 mmol) in dichloromethane (10 ml) was added dropwise triethylamine (220 mg, 2.18 mmol) at ice-bath temperature. After 1 hour, the reaction mixture was partitioned between dichloromethane and water. The organic layer was washed with brine, dried (magnesium sulfate), and concentrated in vacuo to give 1-[(2S,3R)-2-benzyloxy-5-methanesulfonyloxy-3-pentyl]imidazole-4-carboxamide (430 mg, 103%) as an oil. This material was used for the next reaction without further purification.

reactant | 1-[(2S,3R)-2-benzyloxy-5-hydroxy-3-pentyl]imidazole-4-carboxamide | 1.09 mmol, 330 mg | C(C1=CC=CC=C1)O[C@@H](C)[C@@H](CCO)N1C=NC(=C1)C(=O)N | C16H21N3O3
reactant | methanesulfonyl chloride | 2.18 mmol, 249 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 2.18 mmol, 220 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-[(2S,3R)-2-benzyloxy-5-methanesulfonyloxy-3-pentyl]imidazole-4-carboxamide | 430 mg, 103% | C(C1=CC=CC=C1)O[C@@H](C)[C@@H](CCOS(=O)(=O)C)N1C=NC(=C1)C(=O)N | C17H23N3O5S
